US05723462
A mixture of 2-chloro-7-amino-1,8-napthyridine (Newkome, G. R. et al, J. Org. Chem., 1981, 46, 833-39) (180 mg, 1 mmol) and a methanolic solution of sodium methoxide (458 μL, 25 wt. %) in methyl alcohol (2 mL) was heated at 50° C. for 19 hours. The reaction mixture was allowed to cool, filtered through Celite using dichloromethane, concentrated in vacuo and the residue purified on Silica gel (1:9:0.2 methyl alcohol/dichloromethane/ammonium hydroxide) to afford 2-methoxy-7-amino-1,8-naphthyridine as a pale yellow solid.

reactant | 2-chloro-7-amino-1,8-napthyridine | 1 mmol, 180 mg | ClC1=NC2=NC(=CC=C2C=C1)N | C8H6ClN3
reactant | sodium methoxide | 458 μL | C[O-].[Na+]
solvent | methyl alcohol | 2 mL | CO | CH4O
product | 2-methoxy-7-amino-1,8-naphthyridine | COC1=NC2=NC(=CC=C2C=C1)N | C9H9N3O
